US07595397B2
4-(2′-Trifluoromethyl-biphenyl-4-ylmethyl)-morpholine
100 mg of 4-(4-Bromo-benzyl)-morpholine was combined with 111 mg of 2-(Trifluoromethyl)phenyl boronic acid, 23 mg of tetrakis(triphenylphosphine)palladium(0), 1.3 mL of 2M sodium carbonate solution, 3.6 mL toluene and 1.7 mL ethanol. The reaction mixture was heated in a sealed tube at 120° C. overnight in an oil bath. The reaction mixture was filtered through Celite and concentrated in vacuo. The residue was purified by flash chromatography using flash chromatography followed by reverse phase HPLC. 24.6 mg of product is obtained. ES MS (+) m/z 322

reactant | 4-(4-Bromo-benzyl)-morpholine | 100 mg | BrC1=CC=C(CN2CCOCC2)C=C1 | C11H14BrNO
reactant | 2-(Trifluoromethyl)phenyl boronic acid | 111 mg | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | 2M, 1.3 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 3.6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 23 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 1.7 mL | C(C)O | C2H6O
product | 4-(2′-Trifluoromethyl-biphenyl-4-ylmethyl)-morpholine | 24.6 mg | FC(C1=C(C=CC=C1)C1=CC=C(C=C1)CN1CCOCC1)(F)F | C18H18F3NO
